US09353081B2
[B] 1-Methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one
A flask was charged with 6-bromo-1-methyl-3,4-dihydro-1H-quinolin-2-one (3 g, 12.5 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.81 g, 15.0 mmol), potassium acetate (3.68 g, 37.5 mmol) and dioxane (48 mL). The mixture was purged with Ar, then dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane complex (1:1) [PdCl2(DPPF)-CH2Cl2 adduct] (457 mg, 0.625 mmol) was added and the resulting mixture was heated to 80° C. over night. The reaction mixture was diluted with EtOAc, filtered through Dicalite and washed with EtOAc (2×150 mL). The resulting filtrate was washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 40% EtOAc-heptane gradient to give the title compound (2.63 g, 73%) as an off white solid. MS: 288.0 (M+H+).

reactant | 6-bromo-1-methyl-3,4-dihydro-1H-quinolin-2-one | 12.5 mmol, 3 g | BrC=1C=C2CCC(N(C2=CC1)C)=O | C10H10BrNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 15.0 mmol, 3.81 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 37.5 mmol, 3.68 g | C(C)(=O)[O-].[K+]
reactant | dioxane | 48 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 2.63 g, 73% | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
